US08735384B2
To a solution of potassium tert-butoxide (472 mg, 4.21 mmol) in THF (4 mL) was added a solution of 1-(2-bromo-3-methylphenylamino)-2-methylpropan-2-ol (724 mg, 2.80 mmol) in THF (10 mL), followed by ethyl 2-chloroacetate (0.45 mL, 4.21 mmol). After 1 h at RT an additional 1 eq of potassium t-butoxide (472 mg, 4.21 mmol) and ethyl 2-chloroacetate (0.450 mL, 4.21 mmol) were added. After 6 h water was added, followed by EtOAc. The organic phase was separated, dried over MgSO4 and the solvent was removed under reduced pressure. The remaining residue was purified by flash chromatography (30-80% EtOAc/hexanes). 4-(2-Bromo-3-methylphenyl)-6,6-dimethylmorpholin-3-one was isolated as a light-yellow solid.

reactant | potassium tert-butoxide | 4.21 mmol, 472 mg | CC(C)([O-])C.[K+]
reactant | 1-(2-bromo-3-methylphenylamino)-2-methylpropan-2-ol | 2.80 mmol, 724 mg | BrC1=C(C=CC=C1C)NCC(C)(O)C | C11H16BrNO
reactant | ethyl 2-chloroacetate | 4.21 mmol, 0.45 mL | ClCC(=O)OCC | C4H7ClO2
reactant | potassium t-butoxide | 4.21 mmol, 472 mg, 1 eq | CC(C)([O-])C.[K+]
reactant | ethyl 2-chloroacetate | 4.21 mmol, 0.450 mL | ClCC(=O)OCC | C4H7ClO2
reactant | water | O | H2O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(2-Bromo-3-methylphenyl)-6,6-dimethylmorpholin-3-one | BrC1=C(C=CC=C1C)N1C(COC(C1)(C)C)=O | C13H16BrNO2
